US09382234B2
To a stirred solution of 2-(2,6-dimethyl-4-oxo-4H-pyran-3-yl)methyl)isoindoline -1,3-dione (280 mg, 0.988 mmol) in ethanol (5 mL) was added hydrazine monohydrate (170 μl, 3.50 mmol). The reaction was stirred at room temperature for 1.5 h (after ˜1 h, a thick suspension formed). The reaction was diluted with CH2Cl2 (˜25 mL), stirred for ˜15 min, filtered through a pad of Celite® to remove the insolubles, and rinsed with a small volume of CH2Cl2. The clear filtrate was treated with Boc2O (900 mg, 4.12 mmol) and concentrated under vacuum. The residue was purified on silica gel (Analogix, SF25-60 g, 10-80% EtOAc in hexanes) to give tert-butyl ((2,6-dimethyl-4-oxo-4H-pyran-3-yl)methyl)carbamate (200 mg, 0.790 mmol, 80% yield) as a clear oil. 1H NMR (400 MHz, CDCl3) δ 6.10 (s, 1 H), 5.47 (br. s., 1 H), 4.09 (d, J=6.6 Hz, 2 H), 2.48 (s, 3 H), 2.25 (s, 3 H), 1.42 (s, 9 H). MS(ES) [M+H]+ 254.0, [M+H]+-Boc 153.9, [M+H]+-isobutylene 197.9.

reactant | isoindoline -1,3-dione | 0.988 mmol, 280 mg | C1(NC(C2=CC=CC=C12)=O)=O | C8H5NO2
reactant | hydrazine monohydrate | 3.50 mmol, 170 μl | O.NN
reactant | Boc2O | 4.12 mmol, 900 mg | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | EtOAc | 60 g | CCOC(=O)C | C4H8O2
solvent | ethanol | 5 mL | C(C)O | C2H6O
solvent | CH2Cl2 | ˜25 mL | C(Cl)Cl | CH2Cl2
product | tert-butyl ((2,6-dimethyl-4-oxo-4H-pyran-3-yl)methyl)carbamate | 0.790 mmol, 200 mg, 80% yield | CC=1OC(=CC(C1CNC(OC(C)(C)C)=O)=O)C | C13H19NO4
